US07163937B2
(3R,4S)-1-tert-butyl 3-methyl 4-((3S)-3-(benzyloxycarbonylamino)-2-oxopyrrolidin-1-yl)piperidine-1,3-dicarboxylate (7.45 g) was dissolved in methylene chloride (20 mL) at room temperature under nitrogen, then TFA (10 mL) was added. After 3 hours, stripped the reaction 3 times from methylene chloride (25 mL). Obtained an oil which was dissolved in ethyl acetate (25 mL) and rinsed 4 times with 1.000 N NaOH (25 mL). The ethyl acetate layer was dried over sodium sulfate and stripped to give (3R,4S)-methyl 4-((3S)-3-(benzyloxycarbonylamino)-2-oxopyrrolidin-1-yl)piperidine-3-carboxylate (4.30 g) as a white glass. Yield=73%. LCMS detects (M+H)+=376.1.

reactant | (3R,4S)-1-tert-butyl 3-methyl 4-((3S)-3-(benzyloxycarbonylamino)-2-oxopyrrolidin-1-yl)piperidine-1,3-dicarboxylate | 7.45 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N(CC1)[C@@H]1[C@@H](CN(CC1)C(=O)OC(C)(C)C)C(=O)OC)=O | C24H33N3O7
reactant | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | (3R,4S)-methyl 4-((3S)-3-(benzyloxycarbonylamino)-2-oxopyrrolidin-1-yl)piperidine-3-carboxylate | 4.30 g, Yield=73% | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N(CC1)[C@@H]1[C@@H](CNCC1)C(=O)OC)=O | C19H25N3O5
